US06617336B1
2 ml (26 mmol) of mesyl chloride and 4 ml (27 mmol) of triethylamine are added sequentially, at 0° C., to a solution of 7 g (17.8 mmol) of 2-phenyl-3-methyl-8-(1-(S)-hydroxy-2-[tert-butyldimethylsilyloxy]ethyl)quinoline in 200 ml of ethyl ether. The solution rapidly turns cloudy and a white precipitate is formed. After stirring for one hour at ambient temperature, 150 ml of distilled water are added to the reaction medium and the aqueous phase is extracted with 3×200 ml of ethyl ether. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under vacuum to provide 8.4 g of 2-phenyl-3-methyl-8-(1-(S)-methanesulfonyloxy-2-[tert-butyldimethylsilyloxy]ethyl)quinoline in the form of a colorless oil, used without purification in the following stage. (Yield: quantitative)

reactant | mesyl chloride | 26 mmol, 2 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 27 mmol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-phenyl-3-methyl-8-(1-(S)-hydroxy-2-[tert-butyldimethylsilyloxy]ethyl)quinoline | 17.8 mmol, 7 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO[Si](C)(C)C(C)(C)C)O | C24H31NO2Si
reactant | water | 150 ml | O | H2O
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-phenyl-3-methyl-8-(1-(S)-methanesulfonyloxy-2-[tert-butyldimethylsilyloxy]ethyl)quinoline | 8.4 g, Yield: quantitative | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO[Si](C)(C)C(C)(C)C)OS(=O)(=O)C | C25H33NO4SSi
